US05912247
A solution of 2-[4-(benzyloxycarbonyl)piperazin-1-yl]-4-[(1R,4S)-[4-[(RS)-(tetrahydropyran-2-yl)oxy]cyclopent-2-en-1-yl]oxy]quinazoline (12.57 g) in acetic acid (50 ml)--water (12.6 ml) is stirred at 60° C. for 4.5 hours. The reaction mixture is diluted with ethyl acetate and washed with aqueous sodium hydrogen carbonate and water, and then dried over anhydrous magnesium sulfate. The solution is evaporated to dryness under reduced pressure, and the resulting residue is purified by medium pressure liquid column chromatography [eluent, chloroform, (chloroform:methanol=500:1, v/v)] to give 2-[4-(benzyloxycarbonyl) piperazin-1-yl]-4-[(1R,4S)-(4-hydroxycyclopent-2-en-1-yl) oxy] quinazoline (6.31 g) as crystals.

reactant | 2-[4-(benzyloxycarbonyl)piperazin-1-yl]-4-[(1R,4S)-[4-[(RS)-(tetrahydropyran-2-yl)oxy]cyclopent-2-en-1-yl]oxy]quinazoline | 12.57 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=NC2=CC=CC=C2C(=N1)O[C@H]1C=C[C@H](C1)OC1OCCCC1 | C30H34N4O5
reactant | water | 12.6 ml | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[4-(benzyloxycarbonyl) piperazin-1-yl]-4-[(1R,4S)-(4-hydroxycyclopent-2-en-1-yl) oxy] quinazoline | 6.31 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=NC2=CC=CC=C2C(=N1)O[C@H]1C=C[C@H](C1)O | C25H26N4O4
